US06982274B2
3-(3-Fluoro-phenyl)-7-methyl-1-trityl-1H-indazol-5-ylamine
To a solution of 2.0 g of 5-bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole obtained in Production Example II-9-c in 20 ml toluene at room temperature were added 0.73 g of benzophenoneimine, 95 mg of tris(dibenzylideneacetone)(chloroform)dipalladium(0), 0.17 g of 2,2′-bis(diphenylphosphino)-.1,1′-binaphthyl and 0.53 g of sodium tert-butyrate, and the mixture was heated under reflux for one day. The mixture was diluted with water and ethyl acetate, and the organic layer was sequentially washed with saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was dissolved in 30 ml of tetrahydrofuran, 10 ml of 5 N hydrochloric acid was added at room temperature, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was neutralized with 5 N aqueous sodium hydroxide solution and was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10 to 1:3), and the resulting obtained crystals were washed with diethyl ether, to give 0.86 g of the title compound as colorless crystals.

reactant | 5-bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole | 2.0 g | BrC=1C=C2C(=NN(C2=C(C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C33H24BrFN2
reactant | benzophenoneimine | 0.73 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 1,1′-binaphthyl | C1(=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoro-phenyl)-7-methyl-1-trityl-1H-indazol-5-ylamine | 0.86 g | FC=1C=C(C=CC1)C1=NN(C2=C(C=C(C=C12)N)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26FN3
